US04452809
Trans-4-(2-chlorophenoxy)-1-ethyl-3-pyrrolidinol Hydrochloride
A mixture of 17.0 g. (0.15 mole) of 1-ethyl-3,4-epoxypyrrolidine, 20.5 g. (0.16 mole) of o-chlorophenol and 3 drops concentrated hydrochloric acid was heated on a steam both overnight. The oil was dissolved in methylene chloride and washed with three 50-ml. portions of 5% sodium hydroxide and one 50-ml. portion of water. The methylene chloride solution was dried over anhydrous sodium sulfate, concentrated and chromatographed on silica gel to give 8.9 g. (25%) of an oil as residue. The oil was converted to the hydrochloride and recrystallized from ethyl acetate-acetonitrile to yield white powder, m.p. 108°-110° C.

reactant | 1-ethyl-3,4-epoxypyrrolidine | 0.15 mole | C(C)N1CC2C(C1)O2 | C6H11NO
reactant | o-chlorophenol | 0.16 mole | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | hydrochloride | Cl | ClH
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-4-(2-chlorophenoxy)-1-ethyl-3-pyrrolidinol Hydrochloride | Cl.ClC1=C(O[C@H]2[C@@H](CN(C2)CC)O)C=CC=C1 | InChI=1S/C12H16ClNO2.ClH/c1-2-14-7-10(15)12(8-14)16-11-6-4-3-5-9(11)13;/h3-6,10,12,15H,2,7-8H2,1H3;1H/t10-,12-;/m1./s1
